### PR TITLE
[Merged by Bors] - chore(Analysis/SpecialFunctions): nthRoot improvement

### PR DESCRIPTION
**Pull request by fcoUnda**
Resolve TODO for nthroot, replacing the dependency on the arithmetic geometric mean inequality by some inequalities on powers of binomials.

---

- [ ] depends on: #31502

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 1]
```diff
@@ -59,36 +60,167 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
+      simp
+    case succ n ih =>
+    calc
+    (u + v) ^ (n + 2)
+      = (u + v) ^ (n + 1) * (u + v) := by rw [pow_succ]
+    _ ≥ (u ^ (n + 1) + (n + 1) * u ^ n * v) * (u + v) := by exact (Int.mul_le_mul_right huv).mpr ih
+    _ = u ^ (n + 2) + (n + 2) * u ^ (n + 1) * v + (n + 1) * u ^ n * v ^ 2 := by ring1
+    _ ≥ u ^ (n + 2) + (n + 2) * u ^ (n + 1) * v := by {
+
+    have hh : ((n : ℤ) + 1) * u ^ n * v ^ 2 ≥ 0 := by {
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: Usually, we don't use `{ }`. We rely on the indentation instead. Also, goals like this one can be solved by `positivity`.

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 2]
```diff
@@ -59,36 +60,167 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
+lemma binom_pow_ge_first_two_terms (n : ℕ) (u v : ℤ) (hu : u ≥ 0) (huv : u + v > 0) :
+  (u + v) ^ (n + 1) ≥ u ^ (n + 1) + (n + 1) * u ^ n * v := by {
+    induction n;
+    case zero =>
+      simp
+    case succ n ih =>
+    calc
+    (u + v) ^ (n + 2)
+      = (u + v) ^ (n + 1) * (u + v) := by rw [pow_succ]
+    _ ≥ (u ^ (n + 1) + (n + 1) * u ^ n * v) * (u + v) := by exact (Int.mul_le_mul_right huv).mpr ih
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: Does `gcongr` work here?

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 3]
```diff
@@ -59,36 +60,167 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
+    set w :=  (u : ℤ) ^ (n + 2) + (n +2) * u ^ (n + 1) * v with hw
+    nth_rw 2 [← add_zero w]
+    exact add_le_add_left hh w
+  }
+}
+
+private theorem nthRoot.lt_pow_go_succ_aux0 (hb : b ≠ 0) :
+  a ≤ ( (a ^ (n + 1) / b ^ n) + n * b) / (n + 1) := by {
+
+    if haa : a = 0 then
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: `rcases a.eq_zero_or_pos with rfl | ha`

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 4]
```diff
@@ -59,36 +60,167 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
+      rw [haa]
+      exact Nat.zero_le _
+
+    else
+      have ha : a > 0 := by
+        rw [gt_iff_lt]
+        apply Nat.zero_lt_of_ne_zero
+        exact haa
+      have b_pow_pos: 0 < (b : Int) ^ n:= by {
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: `by positivity`.

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 5]
```diff
@@ -59,36 +60,167 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
+        calc a = a * (n + 1) / (n + 1) := by rw [Nat.mul_div_cancel _ (add_one_pos n)]
+        _ ≤ (a ^ (n + 1) / b ^ n + n * b) / (n + 1) := by {
+          exact Nat.div_le_div_right hq
+        }
+      rw [pow_succ, mul_comm, mul_assoc]
+      exact dvd_mul_right (b ^ n) _
+}
+
+private theorem nthRoot.always_exists (n a : ℕ) :
+ ∃ c, c ^ (n + 1) ≤ a ∧ a < (c + 1) ^ (n + 1) := by {
```
Comment (urkud) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: - `have H : \ex c, a < (c + 1) ^ (n + 1)`, by taking `c = a`;
- take `c = Nat.find H`

**Comment by j-loreaux** [comment]
I've marked this as depending on #31502.

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean (hunk 1 above)
Comment (fcoUnda) [reply Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: Fixed!

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean (hunk 2 above)
Comment (fcoUnda) [reply Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: It does, thank you!

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean (hunk 3 above)
Comment (fcoUnda) [reply Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: Nice, that's much cleaner.

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean (hunk 4 above)
Comment (fcoUnda) [reply Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: Very powerful :)

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean (hunk 5 above)
Comment (fcoUnda) [reply Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: Took me a while to understand what this is, but it shortened the proof quite a bit, thanks!

**Comment by fcoUnda** [comment]
> ```lean
> private theorem nthRoot.lt_pow_go_succ_aux0 {a b : ℕ} (hb : b ≠ 0) :
>     a ≤ ((a ^ (n + 1) / b ^ n) + n * b) / (n + 1) := by
>   rw [Nat.le_div_iff_mul_le (by positivity), Nat.mul_comm,
>     ← Nat.add_mul_div_right _ _ (by positivity),
>     Nat.le_div_iff_mul_le (by positivity)]
>   have := (Commute.all (b : ℤ) (a - b)).pow_add_mul_le_add_pow_of_sq_nonneg
>     (by positivity) (mul_self_nonneg _) (mul_self_nonneg _) (by grind) (n + 1)
>   grind
> ```

This proof did not work for me, not sure why but grind doesn't find the conclusion, but I've replaced my lemma with the one from https://github.com/leanprover-community/mathlib4/pull/31502.

I also noticed that there is proof that doesn't require Z, would that be interesting / valuable?

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 6]
```diff
@@ -63,36 +60,77 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
+  · nth_rw 2 [Nat.pow_add] at hq
+    nth_rw 4 [Nat.mul_comm] at hq
+    rw [← Nat.mul_assoc] at hq
+    rw [Nat.mul_div_cancel _ (pow_pos (zero_lt_of_ne_zero hb) n)] at hq
+    rw [Nat.mul_div_cancel _ (pow_pos (zero_lt_of_ne_zero hb) n)] at hq
+    rw [pow_one] at hq
+    calc a = a * (n + 1) / (n + 1) := by rw [Nat.mul_div_cancel _ (add_one_pos n)]
+    _ ≤ (a ^ (n + 1) / b ^ n + n * b) / (n + 1) := by exact Nat.div_le_div_right hq
+  rw [pow_succ, mul_comm, mul_assoc]
+  exact dvd_mul_right (b ^ n) _
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: This worked last week
```suggestion
  rw [Nat.le_div_iff_mul_le (by positivity), Nat.mul_comm,
    ← Nat.add_mul_div_right _ _ (by positivity),
    Nat.le_div_iff_mul_le (by positivity)]
  have := (Commute.all (b : ℤ) (a - b)).pow_add_mul_le_add_pow_of_sq_nonneg
    (by positivity) (sq_nonneg _) (sq_nonneg _) (by grind) (n + 1)
  -- `grind` should solve this, but:  https://github.com/leanprover/lean4/issues/11539
  simp [mul_sub, ← add_sub_assoc] at this
  norm_cast at this
  grind 
```

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 7]
```diff
@@ -63,36 +60,77 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
 
 alias ⟨_, pow_nthRoot_le⟩ := pow_nthRoot_le_iff
 
+private theorem nthRoot.lt_pow_go_succ_aux0 (hb : b ≠ 0) :
+    a ≤ ( (a ^ (n + 1) / b ^ n) + n * b) / (n + 1) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]:
```suggestion
    a ≤ ((a ^ (n + 1) / b ^ n) + n * b) / (n + 1) := by
```

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 8]
```diff
@@ -63,36 +60,77 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
+    calc
+      c ^ (n + 1) = (c - 1 + 1) ^ (n + 1) := by
+                  congr
+                  exact (Nat.sub_eq_iff_eq_add hpos).mp rfl
+                _ ≤ a := by
+                  rw [← Nat.not_gt_eq _ _]
+                  apply Nat.find_min H
+                  rw [← hc]
+                  exact sub_one_lt_of_lt hpos
+    , Nat.find_spec H⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: Here's a nice little trick for you. This introduces a new name `c` which is equal (propositionally) to `Nat.find H`, but it doesn't reduce to that. This allows us to perform a nice case split on `c` which simplifies the argument.
```suggestion
  have H : ∃ c, a < (c + 1) ^ (n + 1) := ⟨a, Nat.le_self_pow (by positivity) (a + 1)⟩
  let +nondep (eq := hc) c := Nat.find H
  refine ⟨c, ?_, hc ▸ Nat.find_spec H⟩
  cases c with
  | zero => simp
  | succ k => simpa using Nat.find_min H hc.le
```

**Review by j-loreaux — COMMENTED** [review]
We'll be able to merge this with the note now that there's an issue mentioning the problem.

File: Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean [hunk 9]
```diff
@@ -63,36 +60,40 @@ theorem pow_nthRoot_le_iff : nthRoot n a ^ n ≤ a ↔ n ≠ 0 ∨ a ≠ 0 := by
...
-      norm_cast
-      rw [Nat.floor_div_natCast, Nat.floor_natCast]
+     a < ((a / b ^ n + n * b) / (n + 1) + 1) ^ (n + 1) := by
+  have ⟨c, hc1, hc2⟩ := nthRoot.always_exists n a
+  calc a < (c + 1)^(n + 1) := hc2
+  _ ≤ ((c ^ (n + 1) / b ^ n + n * b) / (n + 1) + 1) ^ (n + 1) := by
+    gcongr
+    exact nthRoot.lt_pow_go_succ_aux0 hb
+  _ ≤ ((a / b ^ n + n * b) / (n + 1) + 1) ^ (n + 1) := by
+    gcongr
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Pow/NthRootLemmas.lean]: style nit
```suggestion
    _ ≤ ((c ^ (n + 1) / b ^ n + n * b) / (n + 1) + 1) ^ (n + 1) := by
      gcongr
      exact nthRoot.lt_pow_go_succ_aux0 hb
    _ ≤ ((a / b ^ n + n * b) / (n + 1) + 1) ^ (n + 1) := by
      gcongr
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
